US07732446B1
[1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid (70 mg, 0.19 mmol) was treated with 4-methoxybenzylamine (31 mg, 0.22 mmol), diethyl cyanophosphonate (36 mg, 0.22 mmol), and TEA (38 mg, 0.37 mmol) according to the procedure described in example 1E to give {6,7-dimethoxy-4-[(4-methoxy-benzylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester (74 mg, 80.7%). H1-NMR (CDCl3): 8.19 (s, 1H), 7.37 (s, 1H), 7.18 (s, 1H), 6.97 (d, 2H, J=8.8 Hz), 6.73 (d, 2H, J=8.5 Hz), 6.14 (m, 1H), 5.62 (m, 1H), 4.87 (d, 2H, J=4.3 Hz), 4.26 (d, 2H, J=6.0 Hz), 4.03 (s, 2H), 3.94, 3.91, and 3.75 (s, 3H each), 1.50 (s, 9H); MS: APCI (M+H) calc'd for C27H33N3O6+H 496.6; found 496.0.

reactant | [1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 0.19 mmol, 70 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | 4-methoxybenzylamine | 0.22 mmol, 31 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | diethyl cyanophosphonate | 0.22 mmol, 36 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | {6,7-dimethoxy-4-[(4-methoxy-benzylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 74 mg, 80.7% | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(NCC1=CC=C(C=C1)OC)=O)=O | C27H33N3O6
